US06743794B2
(Pyridin-4-yloxy)-acetic Acid Ethyl Ester
To a slurry of sodium hydride, 1.73 g (43.2 mmol) in 100 mL of DMF was added 3.4 g (36.0 mmol) of 4-hydroxypyridine. The mixture was stirred 10 minutes then added to a solution of 3.3 mL (30.0 mmol) of bromoethylacetate in 100 mL DMF. The reaction mixture was stirred 72 hours at rt. then concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water and washed with saturated aqueous NaHCO3, washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by radial chromatography using MeOH/chloroform as eluent and concentrated to dryness to yield 510 mg (9.4%) of the desired product as a tan oil. 1H—NMR is consistent with structure. MS (ion spray) 182.1 (M+).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-hydroxypyridine | 36.0 mmol, 3.4 g | OC1=CC=NC=C1 | C5H5NO
reactant | bromoethylacetate | 30.0 mmol, 3.3 mL | BrCCOC(C)=O | C4H7BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (Pyridin-4-yloxy)-acetic Acid Ethyl Ester | 510 mg, 9.4% | C(C)OC(COC1=CC=NC=C1)=O | C9H11NO3
